US06716491B2
40.8 g of dibenzyl[4-(4′-ethylbicyclohexyl-4-yl)-2,6-difluorophenyl]-amine are hydrogenated using 10 g of Pd/C/H2 (5%) in 400 ml of THF. Conventional work-up gives 4-(4′-ethylbicyclohexyl-4-yl)-2,6-difluorophenylamine.

reactant | dibenzyl[4-(4′-ethylbicyclohexyl-4-yl)-2,6-difluorophenyl]-amine | 40.8 g | C(C1=CC=CC=C1)N(C1=C(C=C(C=C1F)C1CCC(CC1)C1CCC(CC1)CC)F)CC1=CC=CC=C1 | C34H41F2N
solvent | THF | 400 ml | C1CCOC1 | C4H8O
catalyst | Pd/C H2 | 10 g | [Pd].[H][H]
product | 4-(4′-ethylbicyclohexyl-4-yl)-2,6-difluorophenylamine | C(C)C1CCC(CC1)C1CCC(CC1)C1=CC(=C(C(=C1)F)N)F | C20H29F2N
